US03997538
2-(3,4-Dichlorophenyl)-4-(2,3-dihydroxypropylamino)quinazoline
A mixture of 46.5 g. (0.15 mole) of 4-chloro-2-(3,4-dichlorophenyl)quinazoline in 500 ml of dimethylformamide and 29 g (0.31 mole) of 2,3-dihydroxypropylamine was heated on a steam bath with stirring for 4 hrs. Diluted the mixture with water until turbid and cooled in an ice bath. The colorless solid was filtered and recrystallized from methyl alcohol (Darco). The product was collected as colorless needles melting at 155°-160° (with previous softening) in a yield of 49 g. (90%). Further recrystallization from nitromethane gave 39 g. melting at 162°-164°. Anal. Calcd. for C17H15Cl2N3O2 : C, 56.06; H, 4.15; N, 11.54 Found: C, 55.63; H, 4.04; N, 11.49.

reactant | 4-chloro-2-(3,4-dichlorophenyl)quinazoline | 0.15 mole | ClC1=NC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C14H7Cl3N2
reactant | 2,3-dihydroxypropylamine | 0.31 mole, 29 g | OC(CN)CO | C3H9NO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(3,4-Dichlorophenyl)-4-(2,3-dihydroxypropylamino)quinazoline | ClC=1C=C(C=CC1Cl)C1=NC2=CC=CC=C2C(=N1)NCC(CO)O | C17H15Cl2N3O2
